US05693808
(1) N-Hexylheptyl-formamide
20.0 g (100 mmol) of 1-hexylheptylamine are heated under reflux with 20.0 g (400 mmol) of 92 percent formic acid for 1 hour. The excess formic acid is distilled off over a 10 cm Vigreux column and the reaction product which remains is subjected to fractional distillation in vacuo. Yield 18.1 g (79%)--boiling point 165° C. (1 mm Hg)-nD 20=1.4577. The reaction product contains a small content of bisformamide which can be removed by distillation only with difficulty but does not interfere in the further reactions.

reactant | 1-hexylheptylamine | 100 mmol, 20.0 g | C(CCCCC)C(CCCCCC)N | C13H29N
reactant | formic acid | 400 mmol, 20.0 g | C(=O)O | CH2O2
product | N-Hexylheptyl-formamide | C(CCCCC)N(C=O)CCCCCCC | C14H29NO
